2177-04-09 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2177-4-8**] 03:25 PM
 SHEATH - STOP [**2177-4-8**] 03:34 PM
   1.Returned to IR for Tips redo -> successful although still with portal
   vein filling defects therefore IR recc life long anticoagulation to
   prevent reclosure of TIPS. Liver in agreement with heparin/coumadin.
   2.TPA d/c'd post IR procdure.  Heparin gtt started.
   3.Right IJ sheath replaced by tripple lumen in IR
   4.Antibiotics changed to Vanc/Cefepime to cover SBP and HAP/Asp PNA,
   given diffuse dependent airway collapse on chest CT.  Increased PEEP
   given significant dependant collapse.  VC 50%/520/18/14
   ABG:7.44/40/122/28
   5.500ml NS bolus and 50 g IV albumin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-4-7**] 11:57 PM
   Cefipime - [**2177-4-8**] 05:06 PM
   Vancomycin - [**2177-4-8**] 05:42 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-4-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-9**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 58 (47 - 66) bpm
   BP: 120/52(68) {93/41(54) - 124/56(71)} mmHg
   RR: 9 (7 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 111.8 kg (admission): 110 kg
           Total In:
                                                                  3,739 mL
                                                                  1,073 mL
   PO:
           TF:
   IVF:
                                                                  3,000 mL
                                                                    793 mL
   Blood products:
                                                                    740 mL
                                                                    200 mL
   Total out:
                                                                    717 mL
                                                                    175 mL
   Urine:
                                                                    717 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,022 mL
                                                                    898 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 52 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/40/122/26/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Gen: sedated, intubated, opens eyes to voice, following commands
   HEENT: ET tube, OG tube in place, PERRLA, EOMI
   Neck: RIJ in place
   CV: RRR s1 s2 no appreciable murmur
   Lungs: CTA anteriorly, no wheezing
   Abd: distended, but soft, no indication of tenderness, BS positive
   Ext: cool, positive DP
   Labs / Radiology
   46 K/uL
   9.6 g/dL
   111 mg/dL
   2.3 mg/dL
   26 mEq/L
   3.6 mEq/L
   54 mg/dL
   105 mEq/L
   139 mEq/L
   28.3 %
   3.0 K/uL
        [image002.jpg]
                             [**2177-4-8**]  02:15 AM
                             [**2177-4-8**]  05:00 AM
                             [**2177-4-8**]  07:56 AM
                             [**2177-4-8**]  02:14 PM
                             [**2177-4-8**]  05:33 PM
                             [**2177-4-8**]  09:45 PM
                             [**2177-4-8**]  10:23 PM
                             [**2177-4-8**]  11:09 PM
                             [**2177-4-9**]  12:23 AM
                             [**2177-4-9**]  03:58 AM
   WBC
   4.7
   2.9
   2.7
   3.0
   Hct
   28.0
   27.0
   33.7
   27.7
   26.4
   28.3
   Plt
   46
   58
   46
   45
   45
   46
   Cr
   1.8
   1.9
   2.2
   2.3
   TCO2
   25
   25
   28
   28
   Glucose
   99
   170
   192
   111
   Other labs: PT / PTT / INR:19.5/150.0/1.8, ALT / AST:20/65, Alk Phos /
   T Bili:70/3.7, Fibrinogen:94 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.8
   g/dL, LDH:779 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Microbiology: [**4-6**], [**4-8**] Blood Cultures: NGTD
   [**2177-4-7**] Sputum Cx: GPC in pairs and clusters
   [**4-6**] Peritoneal Fluid Cx: no growth
   [**4-6**] Urine Cx: no growth
   Assessment and Plan
 HYPERGLYCEMIA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATIC FAILURE, FULMINANT
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   65 M NASH cirrhosis, portal hypertensive colopathy, esophageal varices,
   diabetes, ulcerative colitis course c/b SBP, occluded TIPS and portal
   vein, BRBPR admitted to ICU given intubation and TPA infusion and
   monitoring for GIB
   .
   #Acute TIPS closure
 likely cause of his presentation with ascites/sbp
   and encephalopathy.  Now s/p successful IR procedure with patent TIPS.
   On heparin with goal of long term anticoagulation given persistent
   filling defects in portal vein making high risk for re-occlusion of
   TIPS.
   -continue heparin gtt for now
   -hold off on coumadin given possibility of upcoming procedures and
   recent bleeding
   .
   #SBP: likely precipitated by acute TIPS closure.  No growth on ascites
   fluid culture thus far.
   -continue cefepime
   .
   #Acute renal failure
 creatinine has been trending up since admission
   likely 2/2 HRS vs ATN vs contrast nephropathy.  Onset of renal failure
   is a little too fast for contrast nephropathy given that it started
   within 24 hours of initial contrast administration.  More likely HRS
   given acute SBP, GIB and TIPS colsure.  No response to IVF and albumin
   overnight making prerenal unlikely.
   -will treat for HRS albumin 50 [**Hospital1 **], octreotide, midodrine
   -monitor renal function
   -renal consult tomorrow if creatinine continues to worsen despite above
   treatment.
   .
   #Pneumonia
likely [**2-3**] aspiration pna vs HAP, with diffuse dependent
   infiltrates and GPC
s in pairs and clusters on sputum culture.  Getting
   ARDS net ventillation with good oxygenation/ventillation.
   -continue vanc/zosyn
   -wean PEEP to [**10-13**] as tolerated
   -f/u sputum culture results
   -daily vanc trough given worsening renal function
   .
   # GIB- Rectal bleeding on admission likely [**2-3**] combination of portal
   colopathy, UC in setting occluded TIPS with increased pressures.
   Currently s/p 2 units, HCT stable without evidence of continued rectal
   bleeding.
   - active type and screen
   - [**Hospital1 **] Hct  today
   - transfuse to goal HCT 27
   - Cont PPI
   -monitor for rebleeding now that on heparin gtt
   .
   # Diabetes: did well with insulin gtt
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs
   - consider transition to sliding scale
   .
   # Ulcerative colitis
   - back on prednisone PO via NGT
   - can D/C asacol per GI
   .
   # Cirrhosis [**2-3**] NASH: Liver function decompesated.
   - Cont lactulose, rifaximin
   - cont propranolol at lower dose given bradycardia
   ICU Care
   Nutrition: NPO, NGT, start tube feeds
   Glycemic Control: Insulin infusion
   Lines:
   Sheath - [**2177-4-7**] 09:32 PM
   18 Gauge - [**2177-4-7**] 09:38 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter [**First Name4 (NamePattern1) 2476**] [**Last Name (NamePattern1) 2477**] [**Telephone/Fax (1) 2478**]
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2177-4-9**] 17:07 ------

2177-04-10 08:02:00 Physician Resident Progress Note
Chief Complaint: TIPS stenosis, PV thrombosis
   24 Hour Events:
   [**4-9**]
   - PEEP decreased to 12->10 on Fi02 40% with good effect
   - CTA from [**4-7**] finally read: no obvious PE, findings c/w pulm HTN
   - Liver: start Albumin 50g IV BID, hold on octreotide/midodrine until
   tomorrow to see how kidneys rspond
   - [**Last Name (un) 294**]: Start 30units lantus qPM and q6 RISS with tube feeds
   - IR: cont current management
   - UOP picked up to 60-80cc/hr
   - didnt tolerate fentanyl/versed agitated biting at tube
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-4-7**] 11:57 PM
   Vancomycin - [**2177-4-9**] 10:51 AM
   Cefipime - [**2177-4-9**] 04:08 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2177-4-9**] 12:00 PM
   Fentanyl - [**2177-4-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-10**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 58 (53 - 82) bpm
   BP: 114/50(65) {114/50(65) - 147/66(84)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 110 kg
   Height: 73 Inch
           Total In:
                                                                  2,177 mL
                                                                    576 mL
   PO:
           TF:
           144 mL
   IVF:
                                                                  1,507 mL
                                                                    233 mL
   Blood products:
                                                                    200 mL
                                                                    200 mL
   Total out:
                                                                    671 mL
                                                                    350 mL
   Urine:
                                                                    671 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,506 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 65 cmH2O/mL
   SpO2: 99%
   ABG: ///24/
   Ve: 8.2 L/min
   Physical Examination
   Gen: sedated, intubated, opens eyes to voice, following commands
   HEENT: ET tube, OG tube in place, PERRLA, EOMI
   Neck: RIJ in place
   CV: RRR s1 s2 no appreciable murmur
   Lungs: CTA anteriorly, no wheezing
   Abd: distended, but soft, no indication of tenderness, BS positive
   Ext: warm, positive DP
s, pitting edema to sacrum
   Labs / Radiology
   50 K/uL
   9.4 g/dL
   168 mg/dL
   2.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   58 mg/dL
   105 mEq/L
   140 mEq/L
   27.6 %
   3.1 K/uL
        [image002.jpg]
                             [**2177-4-8**]  07:56 AM
                             [**2177-4-8**]  02:14 PM
                             [**2177-4-8**]  05:33 PM
                             [**2177-4-8**]  09:45 PM
                             [**2177-4-8**]  10:23 PM
                             [**2177-4-8**]  11:09 PM
                             [**2177-4-9**]  12:23 AM
                             [**2177-4-9**]  03:58 AM
                             [**2177-4-9**]  01:52 PM
                             [**2177-4-10**]  03:43 AM
   WBC
   2.9
   2.7
   3.0
   3.1
   Hct
   33.7
   27.7
   26.4
   28.3
   28.6
   27.6
   Plt
   46
   45
   45
   46
   50
   Cr
   1.9
   2.2
   2.3
   2.4
   2.6
   TCO2
   25
   25
   28
   28
   Glucose
   170
   192
   111
   151
   168
   Other labs: PT / PTT / INR:19.1/90.0/1.8, ALT / AST:20/65, Alk Phos / T
   Bili:70/3.7, Fibrinogen:94 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:3.1
   g/dL, LDH:779 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR-
   Microbiology: [**4-7**] SPARSE GROWTH OROPHARYNGEAL FLORA.
   GRAM STAIN (Final [**2177-4-9**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
 HYPERGLYCEMIA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATIC FAILURE, FULMINANT
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   65 M NASH cirrhosis, portal hypertensive colopathy, esophageal varices,
   diabetes, ulcerative colitis course c/b SBP, occluded TIPS and portal
   vein, BRBPR admitted to ICU given intubation and TPA infusion and
   monitoring for GIB
   .
   #Acute TIPS closure
 likely cause of his presentation with ascites/sbp
   and encephalopathy.  Now s/p successful IR procedure with patent TIPS.
   On heparin with goal of long term anticoagulation given persistent
   filling defects in portal vein making high risk for re-occlusion of
   TIPS.
   -continue heparin gtt for now
   -hold off on coumadin given possibility of upcoming procedures and
   recent bleeding
   -transition to coumadin prior to discharge
   .
   #SBP: likely precipitated by acute TIPS closure.  No growth on ascites
   fluid culture thus far.
   -continue cefepime
   .
   #Acute renal failure
 creatinine has been trending up since admission
   likely 2/2 HRS vs ATN vs contrast nephropathy.  Onset of renal failure
   is a little too fast for contrast nephropathy given that it started
   within 24 hours of initial contrast administration.  More likely HRS
   given acute SBP, GIB and TIPS colsure.  No response to IVF and albumin
   overnight making prerenal unlikely.  Urine output is starting to pick
   up.
   -Hold off on HRS treatment for now and trend creatinine
   -monitor renal function
   -renal consult tomorrow if creatinine continues to worsen despite above
   treatment.
   .
   #Pneumonia/Respiratory failure
likely [**2-3**] aspiration pna vs HAP, with
   diffuse dependent infiltrates and GPC
s in pairs and clusters on sputum
   gram stain, however culture with no growth.  Now with bilateral pleural
   effusions as well likely [**2-3**] volume overload from ARF.
   -continue vanc/cefepime, vanco level 21 today
   -SBT to determine if ready for extubation given that he is oxygenating
   well
   -f/u sputum culture- unrevealing
   -daily vanc trough given worsening renal function
   .
   # GIB- Rectal bleeding on admission likely [**2-3**] combination of portal
   colopathy, UC in setting occluded TIPS with increased pressures.
   Currently s/p 2 units, HCT stable without evidence of continued rectal
   bleeding.
   - active type and screen
   - daily Hct  as no evidence of rebleeding
   - Cont PPI
   -monitor for rebleeding now that on heparin gtt
   .
   # Diabetes: Insulin gtt d/c
d last night however did not get dose of
   glargine that he was scheduled for with elevated finger sticks today in
   200
s.  Will change glargine to QAM and administer dose now, regular
   insulin sliding scale given tube feeds.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs
   -lantus 30 units and SSI
   .
   # Ulcerative colitis: no evidence of acute bleeding
   - back on prednisone PO via NGT
   - D/C asacol 4/8 per gi reccs
   .
   # Cirrhosis [**2-3**] NASH: Liver function decompesated.
   - Cont lactulose, rifaximin
   - cont propranolol at lower dose given bradycardia
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2177-4-10**] 12:00 AM 27 mL/hour
   Glycemic Control:  glargine and RISS
   Lines:
   Multi Lumen - [**2177-4-8**] 03:25 PM
   18 Gauge - [**2177-4-9**] 09:28 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition:ICU

2177-04-11 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2177-4-10**] 02:43 PM
   Extubated at 1430 w/o complications
   - PM lytes- Cr 2.9 (2.6), sent urine na, cr, eos
   - tightened up sliding scale for FSG 400 at 1830
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-4-10**] 08:00 AM
   Cefipime - [**2177-4-10**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-11**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.2
   HR: 70 (68 - 79) bpm
   BP: 146/60(83) {108/36(53) - 156/69(90)} mmHg
   RR: 15 (11 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 110 kg
   Height: 73 Inch
             Total In:
                                                                  2,515 mL
                                                                    390 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
                                                                    321 mL
   IVF:
                                                                    956 mL
                                                                    150 mL
   Blood products:
                                                                    588 mL
   Total out:
                                                                  1,140 mL
                                                                  1,000 mL
   Urine:
                                                                  1,140 mL
                                                                    300 mL
   NG:
   Stool:
   700 mL
   Drains:
   Balance:
                                                                  1,375 mL
                                                                   -610 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 520 (520 - 520) mL
   PS : 5 cmH2O
   RR (Set): 16
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 93%
   ABG: ///22/
   Ve: 9.7 L/min
   Physical Examination
   [**Last Name (un) **]&O x3, slight asterixis on exam
   HEENT:, PERRLA, EOMI
   Neck: RIJ in place
   CV: RRR s1 s2 no appreciable murmur
   Lungs: crackles bilaterally, scattered ronchi, slight right sided
   wheezing
   Abd: distended, but soft, denies  tenderness, BS positive
   Ext: warm, positive DP
s, pitting edema to sacrum
   Labs / Radiology
   53 K/uL
   9.4 g/dL
   188 mg/dL
   2.9 mg/dL
   22 mEq/L
   3.5 mEq/L
   62 mg/dL
   105 mEq/L
   139 mEq/L
   27.8 %
   3.5 K/uL
        [image002.jpg]
                             [**2177-4-8**]  05:33 PM
                             [**2177-4-8**]  09:45 PM
                             [**2177-4-8**]  10:23 PM
                             [**2177-4-8**]  11:09 PM
                             [**2177-4-9**]  12:23 AM
                             [**2177-4-9**]  03:58 AM
                             [**2177-4-9**]  01:52 PM
                             [**2177-4-10**]  03:43 AM
                             [**2177-4-10**]  03:43 PM
                             [**2177-4-11**]  04:15 AM
   WBC
   2.7
   3.0
   3.1
   3.5
   Hct
   26.4
   28.3
   28.6
   27.6
   27.8
   Plt
   45
   46
   50
   53
   Cr
   2.2
   2.3
   2.4
   2.6
   2.9
   2.9
   TCO2
   25
   25
   28
   28
   Glucose
   192
   111
   151
   168
   188
   Other labs: PT / PTT / INR:20.0/113.0/1.9, ALT / AST:14/20, Alk Phos /
   T Bili:63/2.6, Amylase / Lipase:35/16, Fibrinogen:94 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.7 g/dL, LDH:422 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Imaging: [**4-10**] CXR:
   Indwelling devices are unchanged in position. Cardiac silhouette
   remains
   enlarged, and there is mild pulmonary vascular congestion present.
   Persistent left retrocardiac opacity and adjacent pleural effusion,
   probably unchanged allowing for technical differences between the
   studies. Apparent slight worsening of right basilar opacity, likely a
   combination of atelectasis and pleural effusion.
   [**2177-4-7**] CTA Chest:
   1. No definite pulmonary embolism. Questionable filling defect in
   segmental
   branch of left lower lobe. If patient's symptoms persist, and if
   clinically
   warranted, we suggest a repeat CTPA.
   2. Findings suggestive of pulmonary hypertension.
   3. Large dependent bilateral consolidations raising the possibility of
   an aspiration pneumonia.
   4. Fluid/secretions in trachea and bronchi is concerning for
   aspiration.
   5. Probable mild hydrostatic pulmonary edema.
   Microbiology: [**2177-4-9**] Sputum Cx: no microorg, no growth
   [**2177-4-8**] Blood Cx: NGTD
   [**2177-4-7**] Sputum Cx: sparse growth coag + staph
   [**2177-4-6**] Peritoneal Fluid: no growth
   Assessment and Plan
 HYPERGLYCEMIA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATIC FAILURE, FULMINANT
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   A/P: Mr. [**Known lastname 2549**] is a 65 yo M with NASH cirrhosis, portal hypertensive
   colopathy, esophageal varices, diabetes, ulcerative colitis admitted
   with SBP2/2 occluded TIPS with course c/b BRBPR, aspiration pna
   requiring intubation and acute renal failure.
   .
   #Acute TIPS closure
 likely cause of his presentation with ascites/sbp
   and encephalopathy.  Now s/p successful IR procedure with patent TIPS.
   On heparin with goal of long term anticoagulation given persistent
   filling defects in portal vein making high risk for re-occlusion of
   TIPS.
   -continue heparin gtt for now
   -hold off on coumadin given possibility of upcoming procedures and
   recent bleeding
   -transition to coumadin prior to discharge, will be difficult to
   monitor INR as it is 1.9 without coumadin likely [**2-3**] ESLD and vit K
   deficiency.
   .
   #SBP: likely precipitated by acute TIPS closure.  No growth on ascites
   fluid culture thus far.
   -will change back to ceftriaxone now that sputum only growing GPC
   plan to complete 10 day course
   -no need for repeat paracentesis at this time
   .
   #Acute renal failure
 creatinine has been trending up since admission
   likely 2/2 HRS vs ATN vs contrast nephropathy.  Onset of renal failure
   is a little too fast for contrast nephropathy given that it started
   within 24 hours of initial contrast administration.  More likely ATN vs
   HRS given acute SBP, GIB and TIPS colsure.  FENA from [**4-10**] 1.5% more in
   support of ATN.  Urine eosinophils negative making AIN very unlikely
   also no skin rash.  Creatinine currently stable at 2.9 with improving
   urine output.
   -Hold off on HRS treatment for now and trend creatinine
   -continue albumin 50g IV BID for now
   -monitor urine output
   .
   #Abdominal Pain
 pt transiently reporting lower abdominal pain this
   morning, which he felt was c/w his UC.  Stools have been trace guaiac
   positive but no overt bleeding.
   -check KUB
   -send stool for cdiff
   -monitor symptoms/abdominal exam
   -discuss w/GI whether asacol should be restarted now that improving
   .
   #Pneumonia
likely [**2-3**] aspiration pna, with diffuse dependent
   infiltrates and GPC
s in pairs and clusters on sputum gram stain,
   however culture with no growth.  Now with bilateral pleural effusions
   as well likely [**2-3**] volume overload from ARF.  Extubated [**4-10**] without
   complications, stable on 2L NC.
   -continue vanc, decrease dose to 750 q24, repeat trough in 3 days
   -f/u sputum culture ID/sensi of GPC
   .
   # GIB- Rectal bleeding on admission likely [**2-3**] combination of portal
   colopathy, UC in setting occluded TIPS with increased pressures.
   Transfused 2 units on admission with HCT stable since without evidence
   of continued rectal bleeding.
   - active type and screen
   - daily Hct  as no evidence of rebleeding
   - Cont PPI
   -monitor for rebleeding now that on heparin gtt
   .
   # Diabetes: changed to glargine/HISS yesterday
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs
   -titrate insulin as needed
   .
   # Ulcerative colitis: no evidence of acute bleeding
   - back on prednisone PO via NGT
   - discuss with GI if asacol should be restarted now that taking po
   .
   # Cirrhosis [**2-3**] NASH: bilirubin stable, INR continues to trend up
   daily, pancytopenia is stable
   - Cont lactulose, rifaximin
   - cont propranolol at lower dose given bradycardia
   ICU Care
   Nutrition: advance diet
   Glycemic Control:  glargine and RISS
   Lines:
   Multi Lumen - [**2177-4-8**] 03:25 PM -> plan to D/C once PTT theraputic
   18 Gauge - [**2177-4-9**] 09:28 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: c/o to liver service

2177-04-12 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Creatinine stabilized at 2.9, continued albumin [**Hospital1 **]
   RIJ not d/c'd due to elevated PTT
   called out to [**Doctor Last Name **] [**Doctor Last Name **] but did not get a bed
   Antibiotics changed to vanc/ceftriaxone
   Stool sent for C diff given lower abdominal discomfort
   KUB done which showed few nonspecific scattered loops of small bowel,
   study limited due to ascites
   Glargine increased to 33 units
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2177-4-10**] 04:00 PM
   Vancomycin - [**2177-4-11**] 08:10 AM
   Ceftriaxone - [**2177-4-11**] 04:00 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2177-4-11**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-12**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 72 (69 - 89) bpm
   BP: 148/65(84) {135/53(74) - 160/71(90)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 110 kg
   Height: 73 Inch
             Total In:
                                                                  2,215 mL
                                                                    128 mL
   PO:
                                                                  1,070 mL
             TF:
   IVF:
                                                                    748 mL
                                                                    128 mL
   Blood products:
                                                                    397 mL
   Total out:
                                                                  1,885 mL
                                                                    355 mL
   Urine:
                                                                  1,185 mL
                                                                    355 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                    330 mL
                                                                   -227 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   [**Last Name (un) **]&O x3, slight asterixis on exam
   HEENT:, PERRLA, EOMI
   Neck: RIJ in place
   CV: RRR s1 s2 no appreciable murmur
   Lungs: crackles bilaterally, scattered ronchi, slight right sided
   wheezing
   Abd: distended, but soft, denies  tenderness, BS positive
   Ext: warm, positive DP
s, pitting edema to sacrum
   Labs / Radiology
   41 K/uL
   9.3 g/dL
   190 mg/dL
   2.9 mg/dL
   23 mEq/L
   3.5 mEq/L
   63 mg/dL
   110 mEq/L
   144 mEq/L
   28.2 %
   3.0 K/uL
        [image002.jpg]
                             [**2177-4-8**]  09:45 PM
                             [**2177-4-8**]  10:23 PM
                             [**2177-4-8**]  11:09 PM
                             [**2177-4-9**]  12:23 AM
                             [**2177-4-9**]  03:58 AM
                             [**2177-4-9**]  01:52 PM
                             [**2177-4-10**]  03:43 AM
                             [**2177-4-10**]  03:43 PM
                             [**2177-4-11**]  04:15 AM
                             [**2177-4-12**]  04:33 AM
   WBC
   2.7
   3.0
   3.1
   3.5
   3.0
   Hct
   26.4
   28.3
   28.6
   27.6
   27.8
   28.2
   Plt
   45
   46
   50
   53
   41
   Cr
   2.2
   2.3
   2.4
   2.6
   2.9
   2.9
   2.9
   TCO2
   25
   28
   28
   Glucose
   192
   111
   151
   168
   188
   190
   Other labs: PT / PTT / INR:21.6/72.9/2.0, ALT / AST:13/16, Alk Phos / T
   Bili:61/2.6, Amylase / Lipase:35/16, Differential-Neuts:85.0 %,
   Lymph:9.4 %, Mono:5.1 %, Eos:0.4 %, Fibrinogen:94 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.7 g/dL, LDH:422 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   MICRO:
   Stool [**4-11**]: Pending
   Sputum [**4-9**]: Negative
   Blood cx [**4-8**]: NGTD
   IMAGES:
   KUB [**4-11**]: read pending
   Assessment and Plan
 HYPERGLYCEMIA
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATIC FAILURE, FULMINANT
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   A/P: Mr. [**Known lastname 2549**] is a 65 yo M with NASH cirrhosis, portal hypertensive
   colopathy, esophageal varices, diabetes, ulcerative colitis admitted
   with SBP2/2 occluded TIPS with course c/b BRBPR, aspiration pna
   requiring intubation and acute renal failure.
   .
   #Acute TIPS closure
 likely cause of his presentation with ascites/sbp
   and encephalopathy.  Now s/p successful IR procedure with patent TIPS.
   On heparin with goal of long term anticoagulation given persistent
   filling defects in portal vein making high risk for re-occlusion of
   TIPS.
   -continue heparin gtt for now
   -hold off on coumadin given possibility of upcoming procedures and
   recent bleeding
   -transition to coumadin prior to discharge, will be difficult to
   monitor INR as it is 1.9 without coumadin likely [**2-3**] ESLD and vit K
   deficiency.
   .
   #SBP: likely precipitated by acute TIPS closure.  No growth on ascites
   fluid culture thus far.
   -will change back to ceftriaxone now that sputum only growing GPC
   plan to complete 10 day course through [**4-15**]
   -no need for repeat paracentesis at this time
   .
   #Acute renal failure
 creatinine has been trending up since admission
   likely 2/2 HRS vs ATN vs contrast nephropathy.  Onset of renal failure
   is a little too fast for contrast nephropathy given that it started
   within 24 hours of initial contrast administration.  More likely ATN vs
   HRS given acute SBP, GIB and TIPS colsure.  FENA from [**4-10**] 1.5% more in
   support of ATN.  Urine eosinophils negative making AIN very unlikely
   also no skin rash.  Creatinine currently stable at 2.9 with improving
   urine output.
   -Hold off on full  HRS treatment for now and trend creatinine
   -continue albumin 50g IV BID for now
   -monitor urine output
   .
   #Abdominal Pain
 pt transiently reporting lower abdominal pain this
   morning, which he felt was c/w his UC.  Stools have been trace guaiac
   positive but no overt bleeding.
   -KUB not no significant interval change
   -C. diff negative
   -monitor symptoms/abdominal exam
   -discuss w/GI whether asacol should be restarted now that improving
   .
   #Pneumonia
likely [**2-3**] aspiration pna, with diffuse dependent
   infiltrates and GPC
s in pairs and clusters on sputum gram stain,
   however culture with no growth.  Now with bilateral pleural effusions
   as well likely [**2-3**] volume overload from ARF.  Extubated [**4-10**] without
   complications, stable on 2L NC.
   -continue vanc, decrease dose to 750 q24, repeat trough in 2 days
   -f/u sputum culture ID/sensi of GPC
   .
   # GIB- Rectal bleeding on admission likely [**2-3**] combination of portal
   colopathy, UC in setting occluded TIPS with increased pressures.
   Transfused 2 units on admission with HCT stable since without evidence
   of continued rectal bleeding.
   - active type and screen
   - daily Hct  as no evidence of rebleeding
   - Cont PPI
   -monitor for rebleeding now that on heparin gtt
   .
   # Diabetes: changed to glargine/HISS.  Glargine increased to 33.
   Humalog uptitrated also
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs
   -titrate insulin as needed
   .
   # Ulcerative colitis: no evidence of acute bleeding
   - back on prednisone PO via NGT
   - discuss with GI if asacol should be restarted now that taking po
   .
   # Cirrhosis [**2-3**] NASH: bilirubin stable, INR continues to trend up
   daily, pancytopenia is stable
   - Cont lactulose, rifaximin
   - cont propranolol at lower dose given bradycardia
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2177-4-8**] 03:25 PM
   18 Gauge - [**2177-4-9**] 09:28 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2177-4-12**] 15:26 ------

2177-04-12 11:43:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   has been called out to floor, awaiting bed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2177-4-10**] 04:00 PM
   Ceftriaxone - [**2177-4-11**] 04:00 PM
   Vancomycin - [**2177-4-12**] 08:40 AM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   prednisone 40 mg
   chlortrimazole
   actigall
   rifaximin
   lactulose
   heparin iv gtt
   propranolol
   mvi
   albumin
   pantoprazole
   feso4
   insulin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-12**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.2
   HR: 79 (68 - 89) bpm
   BP: 141/63(78) {133/53(74) - 160/71(90)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 110 kg
   Height: 73 Inch
           Total In:
                                                                  2,215 mL
                                                                    854 mL
   PO:
                                                                  1,070 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    748 mL
                                                                    394 mL
   Blood products:
                                                                    397 mL
                                                                    100 mL
   Total out:
                                                                  1,885 mL
                                                                    925 mL
   Urine:
                                                                  1,185 mL
                                                                    725 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                    330 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   41 K/uL
   190 mg/dL
   2.9 mg/dL
   23 mEq/L
   3.5 mEq/L
   63 mg/dL
   110 mEq/L
   144 mEq/L
   28.2 %
   3.0 K/uL
        [image002.jpg]
                             [**2177-4-8**]  09:45 PM
                             [**2177-4-8**]  10:23 PM
                             [**2177-4-8**]  11:09 PM
                             [**2177-4-9**]  12:23 AM
                             [**2177-4-9**]  03:58 AM
                             [**2177-4-9**]  01:52 PM
                             [**2177-4-10**]  03:43 AM
                             [**2177-4-10**]  03:43 PM
                             [**2177-4-11**]  04:15 AM
                             [**2177-4-12**]  04:33 AM
   WBC
   2.7
   3.0
   3.1
   3.5
   3.0
   Hct
   26.4
   28.3
   28.6
   27.6
   27.8
   28.2
   Plt
   45
   46
   50
   53
   41
   Cr
   2.2
   2.3
   2.4
   2.6
   2.9
   2.9
   2.9
   TCO2
   25
   28
   28
   Glucose
   192
   111
   151
   168
   188
   190
   Other labs: PT / PTT / INR:21.6/72.9/2.0, ALT / AST:13/16, Alk Phos / T
   Bili:61/2.6, Amylase / Lipase:35/16, Differential-Neuts:85.0 %,
   Lymph:9.4 %, Mono:5.1 %, Eos:0.4 %, Fibrinogen:94 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.7 g/dL, LDH:422 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   65 yo M with NASH cirrhosis, UC, presents with TIPs thrombosis
   1. TIPS thrombosis:
    - s/p tpa
    - cont heparin drip
    - eventual transition to coumadin when stable
   2. SBP:
    - vanc/ctx for total ten days (day [**7-11**])
   3. cirrhosis:
    - cont propranolol, rifaximin, lactulose
    - f/u hepatology recommendations
   4. ARF:
    - HRS v ATN
    - creatinine stable
    - cont albumin 50 [**Hospital1 **]
    - holding off on midodrine/octreotide for now
   5. Abdominal pain: stable, ? clot v sbp v uc v infection
   - stool for cdif
    - d/c foley catheter
    - ua
   6/ PNA:
    - cont vanc/ctx
   7. GIB: daily hct, stable
   8. DM2:
    - cont glargine/riss
    - [**Last Name (un) 294**] input much appreciated
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2177-4-8**] 03:25 PM
   18 Gauge - [**2177-4-9**] 09:28 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes